US06943183B2
2-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl)-N-methylbenzamide (Compound 164)
A mixture of 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic acid. (159 mg, 0.30 mmol) and 1,1′-carbonyldiimidazole (73 mg, 0.45 mmol) in DMF (2 ml) was stirred at 50° C.(bath) for 10 min. Triethylamine (0.21 ml, 1.50 mmol) and methylamine hydrochloride (61 mg, 0.90 mmol) were added. The reaction mixture was stirred at room temperature for 24 h. Water (15 ml) was added and stirred at 0° C. for 30 min. The precipitate was filtered, washed with water, and dried to give a crude product which was recrystalized from ethyl acetate-MeOH to afford the required compound as a light brown solid, 85 mg, 52% yield; mp 249-251° C. NMR was consistent with the structure. Calcd. For C30H29N3O5S:

reactant | 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic acid | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C29H26N2O6S
reactant | 1,1′-carbonyldiimidazole | 0.45 mmol, 73 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Triethylamine | 1.50 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.90 mmol, 61 mg | Cl.CN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Water | 15 ml | O | H2O
product | 2-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl)-N-methylbenzamide | 52% yield | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=C(C(=O)NC)C=CC=C1 | C30H29N3O5S
